US08022076B2
A stirred mixture of 5-bromo-2,4-dichloro-6-methylthieno[2,3-d]pyrimidine (1.0 g, 3.35 mmol), ethanol (40 ml), 2-aminomethylpyridine (0.40 ml, 3.69 mmol) and triethylamine (0.50 ml, 3.69 mmol) was heated at a temperature of 60° C. for 1 hour. The reaction mixture was then cooled to ambient temperature, diluted with water (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give a residue. Purification by flash chromatography (silica) eluting with dichloromethane followed by 5% ethyl acetate in dichloromethane gave (5-bromo-2-chloro-6-methylthieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine as a white solid (0.99 g).

reactant | 5-bromo-2,4-dichloro-6-methylthieno[2,3-d]pyrimidine | 3.35 mmol, 1.0 g | BrC1=C(SC=2N=C(N=C(C21)Cl)Cl)C | C7H3BrCl2N2S
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | 2-aminomethylpyridine | 3.69 mmol, 0.40 ml | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 3.69 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
solvent | water | 100 ml | O | H2O
product | (5-bromo-2-chloro-6-methylthieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine | 0.99 g | BrC1=C(SC=2N=C(N=C(C21)NCC2=NC=CC=C2)Cl)C | C13H10BrClN4S
